US06670373B1
To a solution of 2-chloro-6-fluorobenzoic acid (2.14 g, 12.3 mmol), CH2Cl2 (50 ml), and DMF (2 drops) at room temperature under N2 was added oxalyl chloride (9.2 ml, 18.4 mmol) dropwise. The mixture was stirred for 3 h and the volatiles were removed under reduced pressure to give the crude acid chloride. The crude acid chloride and methyl isocyanoacetate (1.23 g, 12.3 mmol) were dissolved in THF (20 ml) at room temperature under N2 and Et3N (6.8 ml, 49.2 mmol) was added dropwise over a period of 30 minutes. The reaction was allowed to stir for 22 h followed by dilution with Et2O, extraction with H2O, 1N HCl, H2O, brine, dried (MgSO4), filtered, and concentrated. Column chromatography (silica gel, hexanes/Et2O gradient) gave 4-methoxycarbonyl-5-(2-chloro-6-fluorophenyl)oxazole (0.74 g, 24%).

reactant | 2-chloro-6-fluorobenzoic acid | 12.3 mmol, 2.14 g | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | oxalyl chloride | 18.4 mmol, 9.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl isocyanoacetate | 12.3 mmol, 1.23 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | Et3N | 49.2 mmol, 6.8 ml | CCN(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxycarbonyl-5-(2-chloro-6-fluorophenyl)oxazole | 0.74 g, 24% | COC(=O)C=1N=COC1C1=C(C=CC=C1F)Cl | C11H7ClFNO3
